US04162246
2,2-Bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]cyclohexyl}propane (Compound No. 119)
A mixture of 8 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione and 5 g of 2,2-bis[4-(2,3-epoxypropoxy)cyclohexyl]propane was heated at 180°-200° C. for 5 hours. The reaction mixture was then purified by column chromatography through silica gel eluted with a 60:10:1 by volume mixture of ethyl acetate, ethanol and triethylamine and then by recrystallisation from ethyl acetate, giving the desired compound in the form of white crystals melting at 130°-133° C.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 8 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | 2,2-bis[4-(2,3-epoxypropoxy)cyclohexyl]propane | 5 g | O1C(COC2CCC(CC2)C(C)(C)C2CCC(CC2)OCC2CO2)C1 | C21H36O4
product | 2,2-Bis{4-[2-hydroxy-3-(7,7,8,9,9-pentamethyl2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]cyclohexyl}propane | OC(COC1CCC(CC1)C(C)(C)C1CCC(CC1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C45H78N6O8
